US05104888
6-Acetoxy-2-(5-amino-2-methylphenoxymethyl)-7-t-butyl-2-methylchroman-4-one (Step D2)
Following the same procedure as described in Preparation 24, hydrogenation of 7.3 g of 6-acetoxy-7-t-butyl-2-methyl-2-(2-methyl-5-nitrophenoxymethyl)chroman-4-one (prepared as described in Preparation 40) in the presence of 1 g of 10% w/w palladium-on-carbon and 100 ml of ethanol gave the title compound as a slightly red, foamy substance.

reactant | 6-acetoxy-7-t-butyl-2-methyl-2-(2-methyl-5-nitrophenoxymethyl)chroman-4-one | 7.3 g | C(C)(=O)OC=1C=C2C(CC(OC2=CC1C(C)(C)C)(COC1=C(C=CC(=C1)[N+](=O)[O-])C)C)=O | C24H27NO7
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 6-Acetoxy-2-(5-amino-2-methylphenoxymethyl)-7-t-butyl-2-methylchroman-4-one | C(C)(=O)OC=1C=C2C(CC(OC2=CC1C(C)(C)C)(C)COC1=C(C=CC(=C1)N)C)=O | C24H29NO5
